US05099083
To a stirred solution of 10 g of benzocyclobutene and 18.25 mL of chloromethyl methyl ether in 100 mL of methylene chloride at -78° C. under a nitrogen atmosphere, 11.1 g tin tetrachloride was added slowly over a period 1 hour and stirring was continued for 6 more hours at -78° C. The reaction mixture was then poured into an ice cold sodium hydroxide solution (10%) and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. Removal of the solvent followed by purification by flash chromatography afforded 6 g of 4-chloromethylbenzocyclobutene (41%) as a colorless liquid.

reactant | benzocyclobutene | 10 g | C1CC=2C1=CC=CC2 | C8H8
reactant | chloromethyl methyl ether | 18.25 mL | COCCl | C2H5ClO
reactant | tin tetrachloride | 11.1 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-chloromethylbenzocyclobutene | 6 g, 41% | ClCC1=C2C(CC2)=CC=C1 | C9H9Cl
